US05434181
A mixture comprising 30.0 g of (tetrahydro-3-furanyl)methyl tosylate, 23.0 g of potassium phthalimide and 150 ml of DMF was stirred at 80° C. for 8 hours. Water was poured into the reaction mixture, and crystals precipitated out was separated by filtration to obtain 27.0 g of N-{(tetrahydro-3-furanyl)methyl}phthalimide.

reactant | (tetrahydro-3-furanyl)methyl tosylate | 30.0 g | S(=O)(=O)(OCC1COCC1)C1=CC=C(C)C=C1 | C12H16O4S
reactant | potassium phthalimide | 23.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-{(tetrahydro-3-furanyl)methyl}phthalimide | 27.0 g | O1CC(CC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C13H13NO3
